US07034039B2
A solution of 4-benzyloxyphthalic anhydride (4.07 g, 16 mmol) and ethyl 2-(isobutylamino)acetate (2.86 g, 18 mmol) in tetrahydrofuran (30 mL) was stirred at room temperature for 1 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was dissolved in N,N-dimethylformamide (30 mL), and potassium carbonate (2.21 g, 16 mmol) and ethyl iodide (1.5 mL, 19.2 mmol) were added thereto. The mixture was stirred at room temperature for 3 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was dissolved in ethanol (50 mL), and a solution (10.9 g, 32 mmol) of 20% sodium ethoxide in ethanol was added thereto. The mixture was stirred at room temperature for 1 h. The reaction mixture was poured into 1N hydrochloric acid (70 mL) and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography and the component eluted earlier was concentrated to give ethyl 7-benzyloxy-4-hydroxy-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate (4.21 g, 66.6%) as an oil.

reactant | 4-benzyloxyphthalic anhydride | 16 mmol, 4.07 g | C(C1=CC=CC=C1)OC=1C=C2C(C(=O)OC2=O)=CC1 | C15H10O4
reactant | ethyl 2-(isobutylamino)acetate | 18 mmol, 2.86 g | C(C(C)C)NCC(=O)OCC | C8H17NO2
reactant | potassium carbonate | 16 mmol, 2.21 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 19.2 mmol, 1.5 mL | C(C)I | C2H5I
reactant | sodium ethoxide | 32 mmol, 10.9 g | [O-]CC.[Na+]
reactant | hydrochloric acid | 1N, 70 mL | Cl | ClH
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | ethyl 7-benzyloxy-4-hydroxy-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinecarboxylate | 4.21 g, 66.6% | C(C1=CC=CC=C1)OC1=CC=C2C(=C(N(C(C2=C1)=O)CC(C)C)C(=O)OCC)O | C23H25NO5
